US04474602
Preparation of 3,6-dichloro-2-(3,3,3-trichloro-1-methylenepropyl)pyridine
A slurry of 15 g (0.039 mole) of 3,6-dichloro-2-(1-bromo-3,3,3-trichloro-1-methylpropyl)pyridine and 5 g of finely divided CuCl in O-dichlorobenzene was washed at reflux for two hours. The mixture was cooled, filtered and the filtrate concentrated in vacuo. Recrystallization from pentane yielded 4.5 g (38%) of product, m.p. 71°-74° C.

reactant | 3,6-dichloro-2-(1-bromo-3,3,3-trichloro-1-methylpropyl)pyridine | 0.039 mole, 15 g | ClC=1C(=NC(=CC1)Cl)C(CC(Cl)(Cl)Cl)(C)Br | C9H7BrCl5N
solvent | O-dichlorobenzene | C1=CC=C(C(=C1)Cl)Cl | C6H4Cl2
catalyst | CuCl | Cl[Cu]
product | 3,6-dichloro-2-(3,3,3-trichloro-1-methylenepropyl)pyridine | 4.5 g, 38% | ClC=1C(=NC(=CC1)Cl)C(CC(Cl)(Cl)Cl)=C | C9H6Cl5N
